US07011838B2
Using 1.02 g of 2-fluoro-4-bromobenzaldehyde, 0.33 g of malononitrile, 8 ml of ethanol, 1.5 ml of water and 57 mg of sodium borohydride, and according to the process described in the REFERENCE PRODUCTION EXAMPLE 19, there was obtained 1.21 g of (2-fluoro-4-bromobenzyl)malononitrile (the intermediate (29)).

reactant | 2-fluoro-4-bromobenzaldehyde | 1.02 g | FC1=C(C=O)C=CC(=C1)Br | C7H4BrFO
reactant | malononitrile | 0.33 g | C(CC#N)#N | C3H2N2
reactant | ethanol | 8 ml | C(C)O | C2H6O
reactant | sodium borohydride | 57 mg | [BH4-].[Na+]
solvent | water | 1.5 ml | O | H2O
product | (2-fluoro-4-bromobenzyl)malononitrile | 1.21 g, Yield: 95% | FC1=C(CC(C#N)C#N)C=CC(=C1)Br | C10H6BrFN2
